US07012075B2
A mixture of 2-hydroxy-2-methylpropiophenone (2.0 g, 12.2 mmol), N-phthaloylglycine (2.7 g, 13.2 mmol), 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (10.3 g, 24.3 mmol) and DMAP (0.34 g, 2.8 mmol) was dissolved in dichloromethane (100 mL) and stirred 5 days at room temperature. The mixture was diluted with dichloromethane and washed with 1 M HCl (2×), saturated NaHCO3 and brine, then filtered through cotton and concentrated to give 1,1-dimethyl-2-oxo-2-phenylethyl 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetate.

reactant | 2-hydroxy-2-methylpropiophenone | 12.2 mmol, 2.0 g | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | N-phthaloylglycine | 13.2 mmol, 2.7 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)O | C10H7NO4
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 24.3 mmol, 10.3 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
catalyst | DMAP | 2.8 mmol, 0.34 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1,1-dimethyl-2-oxo-2-phenylethyl 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetate | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)OC(C(C1=CC=CC=C1)=O)(C)C | C20H17NO5
